US04406690
To a stirred mixture of NaH (0.77 g) and DMSO is slowly added 4-chlorophenethyl alcohol (5 g) in DMSO (20 ml) while maintaining the temperature at or below 32°. After gas evolution stops, 2-chloro-5-nitropyridine (4 g) is added in small portions while maintaining temperature below 25°. After stirring about 1 hour, the reaction is poured onto about 300 g ice and then filtered. The solid is dissolved in ether, washed with water, dried (sodium sulfate) and solvent evaporated to give 2-(4-chlorophenethoxy)-5-nitropyridine, a grey solid.

reactant | NaH | 0.77 g | [H-].[Na+]
reactant | 4-chlorophenethyl alcohol | 5 g | ClC1=CC=C(CCO)C=C1 | C8H9ClO
reactant | 2-chloro-5-nitropyridine | 4 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
product | 2-(4-chlorophenethoxy)-5-nitropyridine | ClC1=CC=C(CCOC2=NC=C(C=C2)[N+](=O)[O-])C=C1 | C13H11ClN2O3
